US08242111B2
A mixture of 1-chloro-5-methyl-3-phenylhex-5-en-3-ol (5.16g, 23mmol), (S)-tert-butyl 3-aminopiperidine-1-carboxylate (6.9 g, 1.5 equiv), KI (4.0 g, 1.05 equiv), K2CO3 (4.77 g, 1.5 equiv) were mixed with acetonitrile (100 mL) and heated to reflux for 20 h. The mixture was filtered through a pad of Celite, concentrated and purified by chromatography on a 120 g silica gel column, eluted with a 0-10% methanol in CH2Cl2 gradient, to afford (3S)-tert-butyl 3-(3-hydroxy-5-methyl-3-phenylhex-5-enylamino)piperidine-1-carboxylate (8.41 g, 94% yield). LC-MS Method 1 tR=1.56 min., m/z 389 (M+1).

reactant | 1-chloro-5-methyl-3-phenylhex-5-en-3-ol | 23mmol, 5.16g | ClCCC(CC(=C)C)(O)C1=CC=CC=C1 | C13H17ClO
reactant | (S)-tert-butyl 3-aminopiperidine-1-carboxylate | 6.9 g, 1.5 equiv | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | K2CO3 | 4.77 g, 1.5 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (3S)-tert-butyl 3-(3-hydroxy-5-methyl-3-phenylhex-5-enylamino)piperidine-1-carboxylate | 8.41 g, 94% yield | OC(CCN[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)(CC(=C)C)C1=CC=CC=C1 | C23H36N2O3
